US07772227B2
(R)-3-Cyclohexyl-2,3-dihydro-6-[(cis)-3,4,5-trimethylpiperazin-1-ylcarbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt
To a solution of (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-3,5-dimethylpiperazin-1-yl-carbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt (100 mg, 0.26 mmol) in ethanol (10 ml) was added formaldehyde (37% in water; 1 ml, 12.5 mmol) and sodium triacetoxyborohydride (200 mg, 0.93 mmol). The mixture was stirred at room temperature for 30 minutes. The solvent was removed in vacuo. The residue was purified by flash chromatography eluting with 1-10% (v/v) methanol in dichloro-methane to afford the title compound as the free base. Hydrochloride salt formation was achieved by the addition of hydrogen chloride (2 M solution in diethyl ether; 2 ml) to the free base in dichloromethane (1 ml). The precipitate was filtered and dried to afford the title compound (1:1 hydrochloride salt). EsIMS: m/z=396.1 [M+H]+, 268; [α]D22−19.6° (c=2.1 mg/ml in methanol).

reactant | (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-3,5-dimethylpiperazin-1-yl-carbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | 0.26 mmol, 100 mg | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2C[C@H](N[C@H](C2)C)C
reactant | formaldehyde | 12.5 mmol, 1 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.93 mmol, 200 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (R)-3-Cyclohexyl-2,3-dihydro-6-[(cis)-3,4,5-trimethylpiperazin-1-ylcarbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2C[C@H](N([C@H](C2)C)C)C | InChI=1S/C24H33N3O2.ClH/c1-16-12-26(13-17(2)25(16)3)24(28)20-14-27-21(18-8-5-4-6-9-18)15-29-22-11-7-10-19(20)23(22)27;/h7,10-11,14,16-18,21H,4-6,8-9,12-13,15H2,1-3H3;1H/t16-,17+,21-;/m0./s1
